US05405854
31.6 g of di-t-butyl dicarbonate in 100 ml of dioxane are added to a solution of 20 g of N-(2-hydroxyethyl)-3-picolylamine in 250 ml of dioxane. After stirring the reaction mixture is evaporated and the residue is chromatographed on silica gel with ethyl acetate. There are obtained 29.8 g of t-butyl (2-hydroxyethyl)(3-pyridylmethyl)carbamate, EI-MS: 253 (M+H)+.

reactant | di-t-butyl dicarbonate | 31.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-(2-hydroxyethyl)-3-picolylamine | 20 g | OCCNCC=1C=NC=CC1 | C8H12N2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | t-butyl (2-hydroxyethyl)(3-pyridylmethyl)carbamate | 29.8 g | OCCN(C(OC(C)(C)C)=O)CC=1C=NC=CC1 | C13H20N2O3
